US04882330
4-(1-Piperazinyl)benzonitrile monohydrochloride
A mixture of 27.3 g (0.15 mole) of p-bromobenzonitrile, 38.7 g (0.45 mole) of piperazine and 42.0 g (0.30 mole) of solid potassium carbonate in a total volume of 60 ml of n-butanol was heated at reflux for 16 hr under a nitrogen atmosphere. The mixture was concentrated under reduced pressure and the slurry partitioned between 10% sodium hydroxide and chloroform. The chloroform layer was separated, dried over magnesium sulfate and concentrated under reduced pressure to give an oil. The oil was eluted through a 400 g silica gel column with a 10% methanol in methylene chloride mixture. The appropriate fractions were concentrated under reduced pressure to give a golden oil. Trituration of this oil with ethyl acetate gave a white powder. The collected white powder was stirred for 15 min in ethereal hydrogen chloride and recrystallized from methanol-water to give 1.5 g (4.5%)* of white solid, m.p. 160° C. with decomposition.

reactant | p-bromobenzonitrile | 0.15 mole, 27.3 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | piperazine | 0.45 mole, 38.7 g | N1CCNCC1 | C4H10N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | n-butanol | C(CCC)O | C4H10O
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(1-Piperazinyl)benzonitrile monohydrochloride | Cl.N1(CCNCC1)C1=CC=C(C#N)C=C1 | InChI=1S/C11H13N3.ClH/c12-9-10-1-3-11(4-2-10)14-7-5-13-6-8-14;/h1-4,13H,5-8H2;1H
